US09403798B2
5-(1,1-Difluoroethyl)thiophene-2-carboxylic acid
To a methanol solution (1.0 mL) of ethyl 5-(1,1-difluoroethyl)thiophene-2-carboxylate (28.6 mg, 0.130 mmol) synthesized in Reference Synthesis Example 123, 1 M sodium hydroxide aqueous solution (312 μL, 0.312 mmol) was added and the resultant mixture was stirred at room temperature for 1 day. After completion of the reaction, the reaction solution was concentrated under reduced pressure and separated with toluene-water. To the water phase, 12 M hydrochloric acid was added until pH reached 2 and extraction from the resultant mixture with ethyl acetate was performed. The organic layer was concentrated under reduced pressure to obtain a crude product of the title compound. The crude product was used in the next step as it was.

reactant | ethyl 5-(1,1-difluoroethyl)thiophene-2-carboxylate | 0.130 mmol, 28.6 mg | FC(C)(F)C1=CC=C(S1)C(=O)OCC | C9H10F2O2S
reactant | sodium hydroxide | 0.312 mmol, 1 M, 312 μL | [OH-].[Na+]
solvent | methanol | 1.0 mL | CO | CH4O
product | 5-(1,1-Difluoroethyl)thiophene-2-carboxylic acid | FC(C)(F)C1=CC=C(S1)C(=O)O | C7H6F2O2S
